US07807673B2
Step E: N-(3-{3-[2-(1,2,3,4-Tetrahydro-7-isoquinolinylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}phenyl)-2-(2-thienyl)acetamide (title compound)
A solution of 2-(2-thienyl)-N-{3-[3-(2-{[1-(trifluoroacetyl)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}acetamide (0.075 g, 0.11 mmol) and LiOH (50 mg, 1.2 mmol) in MeOH (10 mL) was stirred for 30 min. The reaction mixture was evaporated down and the crude taken up in DCM and washed with brine. Purification via column chromatography using a 0-30% gradient of EtOAc/MeOH generated the product as a yellow solid in 42% yield. 1H NMR (400 MHz, d6-DMSO): δ 10.36 (s, 1H), 9.41 (s, 1H), 8.83 (d, 1H), 8.48 (d, 1H), 8.22 (d, 1H), 7.89 (s, 1H), 7.75 (d, 2H), 7.43 (m, 5H), 7.28 (d, 1H), 7.12 (t, 1H), 6.97 (m, 3H), 6.44 (d, 1H), 3.88 (s, 2H), 3.77 (s, 2H), 2.93 (t, 2H), 2.62 (m, 2H). ES-LC/MS m/z=558 [M+H]+.

reactant | 2-(2-thienyl)-N-{3-[3-(2-{[1-(trifluoroacetyl)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}acetamide | 0.11 mmol, 0.075 g | S1C(=CC=C1)CC(=O)NC1=CC(=CC=C1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC1=CC=C2CCCN(C2=C1)C(C(F)(F)F)=O | C34H26F3N7O2S
reactant | LiOH | 1.2 mmol, 50 mg | [Li+].[OH-]
solvent | MeOH | 10 mL | CO | CH4O
product | N-(3-{3-[2-(1,2,3,4-Tetrahydro-7-isoquinolinylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}phenyl)-2-(2-thienyl)acetamide | 42% yield | C1NCCC2=CC=C(C=C12)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(CC=2SC=CC2)=O | C32H27N7OS
